US06992107B1
4-Methylbenzyl 5-amino-4-oxopentanoate hydrochloride [compound 3]
From 4-methylbenzyl alcohol (5.0 g; 41 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol). The reaction was complete after 2 days. The yield was 0.84 g (52%).

reactant | 4-methylbenzyl alcohol | 41 mmol, 5.0 g | CC1=CC=C(CO)C=C1 | C8H10O
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 4-Methylbenzyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCC1=CC=C(C=C1)C)=O | InChI=1S/C13H17NO3.ClH/c1-10-2-4-11(5-3-10)9-17-13(16)7-6-12(15)8-14;/h2-5H,6-9,14H2,1H3;1H
